US08802659B2
To a solution of ethyl 4-((6-((trans)-4-tert-butylcyclohexyloxy)-5-(trifluoromethyl)naphthalen-2-yl)methylamino)butanoate (150 mg, 0.30 mmol) in THF (15 mL) was added 1M HCl (3 mL) and refluxed for 1 h. Then the reaction was concentrated to give 4-((6-((trans)-4-tert-butylcyclohexyloxy)-5-(trifluoromethyl)naphthalen-2-yl)methylamino)butanoic acid as a white solid, purified by HPLC-preparation (0.05% TFA/water:MeOH=0-95%), 50 mg, white solid (yield: 34%). ESI-MS (M+H+): 466.3 HPLC: 96.13%. 1H NMR (400 MHz, CD3OD) δ: 8.20 (d, 1H), 8.10 (d, 1H), 8.01 (d, 1H), 7.65 (dd, 1H), 7.57 (d, 1H), 4.50-4.46 (m, 1H), 4.34 (s, 2H), 3.16 (t, 2H), 2.46 (d, 2H), 2.21 (d, 2H), 1.98 (t, 2H), 1.90 (d, 2H), 1.49 (q, 2H), 1.25 (q, 2H), 1.14-1.08 (m, 1H), 0.91 (s, 9H).

reactant | ethyl 4-((6-((trans)-4-tert-butylcyclohexyloxy)-5-(trifluoromethyl)naphthalen-2-yl)methylamino)butanoate | 0.30 mmol, 150 mg | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C(=C2C=CC(=CC2=CC1)CNCCCC(=O)OCC)C(F)(F)F | C28H38F3NO3
reactant | HCl | 1M, 3 mL | Cl | ClH
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 4-((6-((trans)-4-tert-butylcyclohexyloxy)-5-(trifluoromethyl)naphthalen-2-yl)methylamino)butanoic acid | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C(=C2C=CC(=CC2=CC1)CNCCCC(=O)O)C(F)(F)F | C26H34F3NO3
